Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bile leak
 
Major Surgical or Invasive Procedure:
ERCP on ___

 
History of Present Illness:
___ no sig PMH who underwent lap-converted to open chole on ___
for cholelithiasis and possible Mirizzi syndrome, p/w bile leak
after removal of T-tube day prior to admission. 

CT scan at ___ showed no intra-abdominal fluid
collection. Per ERCP team, planning for ERCP tomorrow. She feels
well currently, no complaints outside of anxiety. ROS negative
for fevers, chills, n/v/d, chest pain, abdominal pain, pain with
urinating.

In the ED, initial VS are 98.3 76 134/78 16 100% on RA.
Labs notable for BMP with HCO3 of 19, BUN/Cr of ___. LFTS 
with
ALT 155/AST 106, All Phos 178. CBC WNL. 
She received 0.5 mg lorazepam.

Upon arrival to the floor, the patient tells the story as
follows.  She reports that in ___ and ___ ___ she was
experienced symptoms of indigestion.  Then had onset of acute
abdominal pain, which caused her to present to the hospital on
___.  She underwent a cholecystectomy on ___, which was
converted to an open procedure.  Following that procedure, she
had 2 drains in place, one which remained in place for several
days.  The other drain, ET tube remains in place for several
weeks.  She has been following up with doctors for ___
work.  She underwent CT imaging approximately 1 week ago.  Due 
to
stable lab work and the result of CT imaging, her T-tube was
pulled.  Immediately while the T-tube was pulled by her surgeon,
the patient began experiencing severe back and epigastric pain. 
She also noted bile leaking out of the T-tube site.  The amount
of bile leaking around the site continue to increase overnight
causing her to re-present to the hospital.  She reports that her
abdominal pain and back pain have resolved.  She currently 
denies
other complaints such as fevers, chills, chest pain, shortness 
of
breath, nausea, vomiting.  She endorses headache and anxiety at
the idea of a procedure tomorrow.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Cholecystectomy complicated by biliary leak with
placement/removal of T tube
 
Social History:
___
Family History:
No known family history of biliary disease. 
Mother died of COPD.  Father died of lung cancer.
 
Physical Exam:
Admission Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist 
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, ostomy bag in upper abdomen
draining bile
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
EST: + Mild pretibial edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

Discharge Exam:
Afebrile, VSS. 
Sitting in bed, pleasant, NAD
EYES: Anicteric, pupils equally round
ENT: Mucous membranes moist 
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement 
bilaterally
GI: Abdomen soft, non-distended, ostomy bag in upper abdomen 
without any bile drainage. 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, speech fluent
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission Labs: 
___ 08:00PM BLOOD WBC-6.4 RBC-4.05 Hgb-11.9 Hct-36.8 MCV-91 
MCH-29.4 MCHC-32.3 RDW-13.5 RDWSD-45.0 Plt ___
___ 08:00PM BLOOD Neuts-54.7 ___ Monos-8.5 Eos-2.0 
Baso-0.5 Im ___ AbsNeut-3.50 AbsLymp-2.16 AbsMono-0.54 
AbsEos-0.13 AbsBaso-0.03
___ 08:00PM BLOOD Plt ___
___ 08:03PM BLOOD ___ PTT-28.7 ___
___ 08:00PM BLOOD Glucose-94 UreaN-12 Creat-0.8 Na-140 
K-3.8 Cl-106 HCO3-19* AnGap-15
___ 08:00PM BLOOD ALT-155* AST-106* AlkPhos-178* 
TotBili-0.4
___ 08:00PM BLOOD Albumin-4.1 Calcium-9.6 Phos-3.9 Mg-2.1
___ 08:09PM BLOOD Lactate-1.0

CT abdomen pelvis ___ (pertinent notes)
The liver, spleen, pancreas are unremarkable.  There has been
cholecystectomy.  No biliary ductal dilatation is seen.
There is a fibroid uterus.  The bladder appears unremarkable.
Impression:
No acute abnormality in the abdomen or pelvis.

Discharge Labs:
___ 06:20AM BLOOD WBC-5.8 RBC-3.88* Hgb-11.4 Hct-34.5 
MCV-89 MCH-29.4 MCHC-33.0 RDW-13.5 RDWSD-43.8 Plt ___
___ 06:20AM BLOOD Glucose-94 UreaN-13 Creat-0.7 Na-143 
K-3.7 Cl-106 HCO3-23 AnGap-14
___ 06:20AM BLOOD ALT-110* AST-61* AlkPhos-158* TotBili-0.___ no sig PMH who underwent lap-converted to open chole on ___ 
for cholelithiasis and possible Mirizzi syndrome, p/w bile leak 
after removal of T-tube day prior to
admission.

ACUTE/ACTIVE PROBLEMS:
# Recent cholecystectomy now with biliary leak: She is s/p 
placement and removal of a t-tube with significant drainage from 
the T-tube site.  S/p ERCP on ___ with sphincterotomy and 
placement of bile duct and PD stents. Tolerated the procedure 
well and will have a follow up procedure in ___ weeks. The ERCP 
will follow up with the patient after discharge. 

# Mild transaminitis: Hepatocellular with normal t.bili. Likely 
inflammation in the setting of recent biliary procedure and 
known biliary leak. It trended down following the ERCP. Please 
follow up outpatient LFTs to ensure resolution. 

# Anxiety: Seems situation. She is specifically anxious 
regarding multiple failed procedures. Discussd outpatient follow 
up if continues to persist.  

CHRONIC:
# Seasonal allergies: Continued Flonase and cetirizine.

Transitional Issues:
[] LFTs at follow up appointment to ensure resolution
[] Repeat ERCP in ___ weeks for stent removal and evaluation. 

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Cetirizine 10 mg PO DAILY  
2.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bile Leak

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

You were admitted to the hospital with a biliary leak following 
your surgery. You underwent a procedure (called an ERCP) to 
treat the leak. The procedure was successful. You will need a 
repeat procedure in 4 weeks. You will be contacted with the 
schedule. 

Please take your medications as directed and follow up as noted 
below. 
 
Followup Instructions:
___